US04252954
Preparation of 6,7-dibromo-3,4-dihydro-3-oxo-2-quinoxaline carboxylic acid 1-adamantylamine salt
Following the above procedure, but substituting 3-methyl-1-adamantylamine for 1-adamantylamine, there was prepared a salt of 6,7-dibromo-3,4-dihydro-3-oxo-2-quinoxaline carboxylic acid and 3-methyl-1-adamantylamine. The crystalline product was isolated by filtration and dried; melting point=280°-282° C. with decomposition.

reactant | 1-adamantylamine | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
reactant | 6,7-dibromo-3,4-dihydro-3-oxo-2-quinoxaline carboxylic acid | BrC=1C=C2NC(C(=NC2=CC1Br)C(=O)O)=O | C9H4Br2N2O3
reactant | 3-methyl-1-adamantylamine | CC12CC3(CC(CC(C1)C3)C2)N | C11H19N
product | 6,7-dibromo-3,4-dihydro-3-oxo-2-quinoxaline carboxylic acid 1-adamantylamine salt | C12(CC3CC(CC(C1)C3)C2)N.BrC=2C=C3NC(C(=NC3=CC2Br)C(=O)O)=O | InChI=1S/C10H17N.C9H4Br2N2O3/c11-10-4-7-1-8(5-10)3-9(2-7)6-10;10-3-1-5-6(2-4(3)11)13-8(14)7(12-5)9(15)16/h7-9H,1-6,11H2;1-2H,(H,13,14)(H,15,16)
